US06310208B1
A mixture of 150 mg (0.41 mmol) of (4-(4-ethyl-3,5-dimethoxy-phenyl)-1-methyl-pyrrolidin-3-yl)-acetate, 1.5 ml trifluoroacetic acid and 0.15 ml of trifluoroacetic acid anhydride was stirred at room temperature over 2 hours. The reaction mixture was subsequently poured on to 50 ml of ice-water, made basic with 28% NaOH and extracted twice with 100 ml of methylene chloride each time. The combined organic phases were washed once with 50 ml of saturated sodium chloride solution, dried (MgSO4) and concentrated in a vacuum. The crude product obtained was purified by column chromatography on silica gel (methylene chloride/methanol/NH4OH 15:1:0.1). 15 mg (13%) of cis-7-ethyl-6,8-dimethoxy-2-methyl-1 ,2,3,3a,4,9b-hexahydro-benzo[e]isoindol-5-one were obtained as a colorless oil.

reactant | (4-(4-ethyl-3,5-dimethoxy-phenyl)-1-methyl-pyrrolidin-3-yl)-acetate | 0.41 mmol, 150 mg | C(C)C1=C(C=C(C=C1OC)C1C(CN(C1)C)CC(=O)[O-])OC
reactant | trifluoroacetic acid | 1.5 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | trifluoroacetic acid anhydride | 0.15 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | NaOH | [OH-].[Na+]
product | cis-7-ethyl-6,8-dimethoxy-2-methyl-1 ,2,3,3a,4,9b-hexahydro-benzo[e]isoindol-5-one | 15 mg, 13% | C(C)C1=C(C2=C([C@H]3CN(C[C@H]3CC2=O)C)C=C1OC)OC | C17H23NO3
